US08232289B2
4. 1-(3-Fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazole-4-carbaldehyde
A mixture of [1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazol-4-yl]methanol (241 mg; 0.91 mmol) and manganese(IV) oxide (791 mg) are stirred in dichloromethane (5 mL) at room temperature overnight. After that time, the reaction mixture is filtered over celite and solvent evaporated to obtain 197 mg of the title compound that is used without further purification. MS (m/z): 264 (M+1).

reactant | [1-(3-fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazol-4-yl]methanol | 0.91 mmol, 241 mg | FC=1C(=NC=CC1)N1N=C(C(=C1)CO)COC(C)C | C13H16FN3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 791 mg | [O-2].[Mn+4].[O-2]
product | 1-(3-Fluoro-2-pyridyl)-3-(isopropoxymethyl)pyrazole-4-carbaldehyde | 197 mg | FC=1C(=NC=CC1)N1N=C(C(=C1)C=O)COC(C)C | C13H14FN3O2
